US08633313B2
To a solution of crude of methyl (2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)methanol (1 g, 3.18 mmol) in DCM (10 mL) was added pyridinium dichromate (2.4 g, 6.36 mmol) at 25° C. The reaction mixture was stirred for overnight at same temperature. The reaction mixture was filtered through Celite™. The filtrate was concentrated in vacuo to give 2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridine-3-carbaldehyde: LC-MS (ESI) m/z 313.0 [M+H]+. It was carried on crude for next step.

reactant | methyl (2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridin-3-yl)methanol | 3.18 mmol, 1 g | CC(O)C=1C(=NC2=CC=CN=C2C1)C1=C(C=CC=C1)S(=O)(=O)C | C17H16N2O3S
reactant | pyridinium dichromate | 6.36 mmol, 2.4 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridine-3-carbaldehyde | CS(=O)(=O)C1=C(C=CC=C1)C1=NC2=CC=CN=C2C=C1C=O | C16H12N2O3S
